US04966904
To 410 mg of 7-methoxy-4-(5,4-dimethoxyphenyl)-8-methyl-1,2,3,4-tetrahydroisoquinoline, was added 8.2 ml of 48% hydrobromic acid, and the mixture was heated under reflux under an argon gas stream for 3 hours. The reaction mixture was cooled, and the crystals which separated out were collected by filtration, giving 410 mg of 7-hydroxy-4-(3,4-dihydroxyphenyl)-8-methyl-1,2,3,4-tetrahydroisoquinoline hydrobromide.

reactant | 7-methoxy-4-(5,4-dimethoxyphenyl)-8-methyl-1,2,3,4-tetrahydroisoquinoline | 410 mg | COC1=CC=C2C(CNCC2=C1C)C1=CC=C(C(=C1)OC)OC | C19H23NO3
reactant | hydrobromic acid | 8.2 ml | Br | BrH
product | 7-hydroxy-4-(3,4-dihydroxyphenyl)-8-methyl-1,2,3,4-tetrahydroisoquinoline hydrobromide | 410 mg | Br.OC1=CC=C2C(CNCC2=C1C)C1=CC(=C(C=C1)O)O | InChI=1S/C16H17NO3.BrH/c1-9-12-7-17-8-13(11(12)3-5-14(9)18)10-2-4-15(19)16(20)6-10;/h2-6,13,17-20H,7-8H2,1H3;1H
